US05750531
Step 4: 4-(2-Methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.46 ml, 4.2 mmol) was added to a mixture solution of 2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chlorocyclopenta[d]pyrimidine(0.6 g, 2.0 mmol) and dimethylformamide(10 ml), 0.10 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 4.2 mmol, 0.46 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chlorocyclopenta[d]pyrimidine | 2.0 mmol, 0.6 g | CC1N(CCC2=CC=CC=C12)C1=NC(=C2C(N1)=CC=C2)Cl | C17H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(2-Methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride | 0.10 g, Yield: 12% | Cl.CC1=C(C=CC(=C1)F)NC1=C2C(NC(=N1)N1C(C3=CC=CC=C3CC1)C)=CC=C2 | InChI=1S/C24H23FN4.ClH/c1-15-14-18(25)10-11-21(15)26-23-20-8-5-9-22(20)27-24(28-23)29-13-12-17-6-3-4-7-19(17)16(29)2;/h3-11,14,16,26H,12-13H2,1-2H3,(H,27,28);1H
